US08030500B2
2-(3-Bromo-4-fluoro-benzoyl)-6-fluoro-benzonitrile
To a solution of 2-cyano-3-fluorophenylzinc (80.0 mL, 40.0 mmol, 0.5 M in THF), tetrakistriphenylphosphine palladium(0) (2.3 g, 2.0 mmol) was added in small portions at 0° C. A solution of 3-bromo-4-fluorobenzoyl chloride (10.0 g, 42.1 mmol) in anhydrous THF (20 mL) was then added dropwise and the reaction mixture was stirred at 0° C. for 1 hour. The reaction was quenched by addition of water (150 mL) and the resulting mixture was extracted with ethyl acetate (2×150 mL). The combined organic extracts were washed with brine, dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash column chromatography using 30% ethyl acetate in hexanes to afford the title compound (7.90 g, 61% yield).

reactant | 2-cyano-3-fluorophenylzinc | 40.0 mmol, 0.5 M, 80.0 mL | C(#N)C1=C(C=CC=C1F)[Zn]
reactant | 3-bromo-4-fluorobenzoyl chloride | 42.1 mmol, 10.0 g | BrC=1C=C(C(=O)Cl)C=CC1F | C7H3BrClFO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3-Bromo-4-fluoro-benzoyl)-6-fluoro-benzonitrile | 7.90 g, 61% yield | BrC=1C=C(C(=O)C2=C(C#N)C(=CC=C2)F)C=CC1F | C14H6BrF2NO
